US05047538
A solution of 3-hydroxy-2,4,5-trifluorobenzoic acid (50 g, 0.26 mol) (prepared in an analogous manner to that described in Eur. Pat. Publication 271275) in methylene chloride (500 mL) was added oxalyl chloride (79 g, 0.62 mol). This solution was stirred at room temperature for 18 hours, cooled to 5° C. and the treated dropwise with methanol (100 mL). The mixture was stirred at room temperature for 2 hours, refluxed for 0.5 hour, cooled and concentrated. The residue was partitioned between methylene chloride and saturated sodium bicarbonate. The organic layer was dried (MgSO4 and concentrated to provide 16.7 g of the desired 3-hydroxy-2,4,5-trifluorobenzoic acid methyl ester. Acidification of the bicarbonate layer, extraction with ether and concentration provided an additional 37 g of desired product as indicated by NMR, This material was not purified further but carried into the next step.

reactant | 3-hydroxy-2,4,5-trifluorobenzoic acid | 0.26 mol, 50 g | OC=1C(=C(C(=O)O)C=C(C1F)F)F | C7H3F3O3
reactant | oxalyl chloride | 0.62 mol, 79 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methanol | 100 mL | CO | CH4O
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-2,4,5-trifluorobenzoic acid methyl ester | 16.7 g | COC(C1=C(C(=C(C(=C1)F)F)O)F)=O | C8H5F3O3
